US07897597B2
4-Amino-1-(2-hydroxy-2-methylpropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-7-ol, (2.5 g, 7.5 mmol) was slurried in 75 mL of THF to which 3-pyridylcarbinol (350 mg, 3.18 mmol) and triphenylphosphine (1.59 g, 6.06 mmol) were added. To this was added 1.2 g (5.93 mmol) of diisopropyl azodicarboxylate (DIAD) and the reaction mixture was stirred for 45 minutes. Approximately 3 additional equivalents of each reagent were added to complete the reaction. The reaction mixture was then concentrated and partitioned between chloroform and aqueous sodium carbonate. The organic fraction was dried and passed through an ion exchange resin with methanol, followed by 1M ammonia in methanol as the eluents. The solvent was concentrated and the residue was purified by flash column chromatography on silica gel using a gradient of 0-40% CMA in chloroform. The desired fractions were concentrated to produce an oil which was taken up in 20 mL of refluxing acetonitrile. Upon cooling, white crystals formed which were filtered and dried to provide 0.55 g of 1-[4-amino-2-(2-methoxyethyl)-7-(pyridin-3-ylmethoxy)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol, mp 200.0-202.0° C.

reactant | 4-Amino-1-(2-hydroxy-2-methylpropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-7-ol | 7.5 mmol, 2.5 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)CCOC)O | C17H22N4O3
reactant | 3-pyridylcarbinol | 3.18 mmol, 350 mg | N1=CC(=CC=C1)CO | C6H7NO
reactant | triphenylphosphine | 6.06 mmol, 1.59 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 5.93 mmol, 1.2 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-[4-amino-2-(2-methoxyethyl)-7-(pyridin-3-ylmethoxy)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 0.55 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)CCOC)OCC=2C=NC=CC2 | C23H27N5O3
